US05852017
c) Preparation of 4,5-diacetamido-2-amino-1-chlorobenzene
To a solution of 4 g (14.7 mmol) of 4,5-diacetamido-1-chloro-2-nitrobenzene in 200 ml of ethanol were added a solution of 0.4 g of copper(II) sulfate×5H2O in 2 ml of water and subsequently, a little at a time, 1.1 g (29.4 mmol) of sodium borohydride. The mixture was refluxed for 3 hours and subsequently filtered. The filtrate was concentrated, and the crude product was washed with water and methylene chloride. Workup of the organic phase gave a yield of 94% of the product.

reactant | 4,5-diacetamido-1-chloro-2-nitrobenzene | 14.7 mmol, 4 g | C(C)(=O)NC1=CC(=C(C=C1NC(C)=O)Cl)[N+](=O)[O-] | C10H10ClN3O4
reactant | sodium borohydride | 29.4 mmol, 1.1 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | copper(II) sulfate | 0.4 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 4,5-diacetamido-2-amino-1-chlorobenzene | yield of 94% | C(C)(=O)NC1=CC(=C(C=C1NC(C)=O)Cl)N | C10H12ClN3O2
